US08278345B2
Compound 110: 5-(2-Fluoro-phenyl)-3-hydroxy-1-(3-imidazol-1-yl-propyl)-4-phenyl-1,5-dihydro-pyrrol-2-one
3-Imidazol-1-yl-propylamine (1 mmol) and 2-Fluoro-benzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2-Oxo-3-phenyl-propionic acid ethylester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 2-Fluoro-benzaldehyde | 1 mmol | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 2-Oxo-3-phenyl-propionic acid ethylester | 1 mmol | C(C)OC(C(CC1=CC=CC=C1)=O)=O | C11H12O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(2-Fluoro-phenyl)-3-hydroxy-1-(3-imidazol-1-yl-propyl)-4-phenyl-1,5-dihydro-pyrrol-2-one | FC1=C(C=CC=C1)C1C(=C(C(N1CCCN1C=NC=C1)=O)O)C1=CC=CC=C1 | C22H20FN3O2
